US07982036B2
To a stirred solution of N2-(6-(3-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine (100 mg, 0.323 mmol) in THF/NMP (1 mL/0.5 mL) was added acryloyl chloride (0.029 g, 0.3 mmol) under N2 atmosphere at −10° C. The stirring was continued at the same temperature for 2 h and the reaction mixture was concentrated under reduced pressure to give a residue that was further purified by column chromatography (SiO2, 60-120, chloroform/methanol) to give N-(6-(6-(3-methoxyphenoxy)pyrimidin-4-ylamino)pyridine-2-yl)acrylamide (I-90) as a pale yellow solid. 1H NMR (DMSO-d6) δ ppm: 3.75 (s, 3H), 5.79 (dd, J=1.8 & 10.08 Hz, 1H), 6.30 (dd, J=1.8 & 16.96 Hz, 1H), 6.65 (dd, J=10.12 & 16.96 Hz, 1H), 6.74-6.76 (m, 2H), 6.82 (td, J=1.52 & 9.24 Hz, 1H), 7.04 (d, J=7.92 Hz, 1H), 7.33 (t, J=8.28 Hz, 1H), 7.70 (t, J=7.96 Hz, 1H), 7.76 (d, J=8 Hz, 1H), 7.90 (s, 1H), 8.34 (s, 1H), 10.20 (s, 1H), 10.48 (s, 1H); LCMS: m/e 364 (M+1).

reactant | N2-(6-(3-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine | 0.323 mmol, 100 mg | O(C)C=1C=C(OC2=CC(=NC=N2)NC2=NC(=CC=C2)N)C=CC1 | C16H15N5O2
reactant | acryloyl chloride | 0.3 mmol, 0.029 g | C(C=C)(=O)Cl | C3H3ClO
solvent | THF NMP | 1 mL | C1CCOC1.CN1CCCC1=O
product | N-(6-(6-(3-methoxyphenoxy)pyrimidin-4-ylamino)pyridine-2-yl)acrylamide | COC=1C=C(OC2=CC(=NC=N2)NC2=CC=CC(=N2)NC(C=C)=O)C=CC1 | C19H17N5O3
